US05276049
1-(1-Amidino-4-piperidinyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one
Prepared from 1-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3-(4-piperidinyl)-imidazolidin-2-one and S-ethylisothiourea-hydrobromide by heating to 100° C. for four hours in dimethylformamide in the presence of sodium carbonate.

reactant | 1-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3-(4-piperidinyl)-imidazolidin-2-one | COC(=O)CCC1=CC=C(C=C1)N1C(N(CC1)C1CCNCC1)=O | C18H25N3O3
reactant | S-ethylisothiourea-hydrobromide | Br.C(C)SC(N)=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(1-Amidino-4-piperidinyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | C(N)(=N)N1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C19H27N5O3
